US04803199
(a) Indol-4-yl carboxylic acid chloride
32.2 g (0.2M) dry indol-4-yl carboxylic acid are suspended in 150 ml absolute methylene chloride. 26 ml (0.3M) oxalyl chloride are added to the stirred mixture at 20° over 30 minutes. Gas evolution results. The mixture is stirred for 31/2 hours at 20° C. 150 ml Hexane are added. The mixture is stirred for another 20 minutes and the resultant heading compound filtered off, washed with methylene chloride/hexane 1:1 dried at 20° in a vacuum to give beige crystals, which are used further without purification.

reactant | indol-4-yl carboxylic acid | 0.2M, 32.2 g | N1C=CC2=C(C=CC=C12)C(=O)O | C9H7NO2
reactant | oxalyl chloride | 0.3M, 26 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Hexane | 150 ml | CCCCCC | C6H14
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | Indol-4-yl carboxylic acid chloride | N1C=CC2=C(C=CC=C12)C(=O)Cl | C9H6ClNO
